datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:82][C:71](/[CH:10]=[C:11](\[O-:12])[C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)=[O:72].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[O:82][C:71]([CH:10]([C:11](=[O:12])[C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[O:72] 10,11=10,20;12=11,12"
"C[C:21]1=[CH:20]CC[C:22]1=[O:23].C[N:62](C)[C:61](=[NH:10])[N:72](C)C>>C[C:21]1=[C:22]([O-:23])CC[CH:20]1[NH+:10]=[C:61]([N:62](C)C)[N:72](C)C 10=20;20,21=21,22;22,23=23"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21.F[C-:10]1[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92]>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([C:10]2(F)[S:61](=[O:62])(=[O:82])C3=C(C=CC=C3)[S:71]2(=[O:72])=[O:92])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)=[CH:22]1 10=20;20,21=21,22;22,23=23"
"CC(C)(C)O/[C:11](=[CH:10]/[N:61]=[C:62](C1=CC=CC=C1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:85]=[CH:84]1)[O-:12].C[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>CC(C)(C)O[C:11]([CH:10]([CH:20]([C:21]1=[C:22](C)[NH:23]C2=C1C=CC=C2)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)[N:61]=[C:62](C1=CC=CC=C1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:85]=[CH:84]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])CCS1.CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH2:10]C)[O:12]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.C[CH2:10][C:20]1([O-:21])CCSCC1 10,11=10,20;12=11,12;20,21=21"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.C1C[N:72]([C:61]([S-:10])=[S:62])CCO1>>C1CC[N:21]([CH:20]([S:10][C:61](=[S:62])[N:72]2CCOCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1 10=20;20,21=21"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C.[CH-:10]([C:61]#[N:62])[C:71]#[N:72]>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]([C:61]#[N:62])[C:71]#[N:72])[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
"CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23].C[Si](C)(C)CCCC[CH:11]([H:10])[CH2:62][Si:63](C)(C)C>>CC[O:33][C:22](=[C:21](C)[CH2:20][H:10])[O-:23].C[Si](C)(C)CCCC[CH+:11][CH2:62][Si:63](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"COC1=CC=C([C:61]([CH:10]=[S:11](C)C)=[O:62])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[CH:22]=[N+:23]2/C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1>>COC1=CC=C([C:61]([CH:10]([S+:11](C)C)[CH:20]([CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]2)=[O:62])C=C1 10,11=10,20;20,21=21,22;22,23=23"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1.CC[O:72][C:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62]>>CC[O:72][C:61]([CH:10]([CH:20]([C:21]1=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]1=[O:32])[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62] 10=20;20,21=21,22;22,23=23"
"CC[O:72][C:61](/[C:10]1=[C:11](\[O-:12])CCCCCCCCCC1)=[O:62].FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:72][C:61]([C:10]1([C:20]([C:31]2=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)CCCCCCCCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12"
"N#C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.[CH:10]#[C:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>N#C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]=[C+:11][C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC[O:82][C:71]([CH:10]=[N+:11]([O-:12])[O-:62])=[O:72]>>CC[O:82][C:71]([CH:10]([N+:11](=[O:12])[O-:62])[CH:20]([CH:21]=[CH:22][N:23]1CCCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:72] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25].C[C-:10]([C:61](C)=[O:62])[C:71](C)=[O:72]>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([C:10](C)([C:61](C)=[O:62])[C:71](C)=[O:72])[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
